US08383843B2
3-Ethoxymethylcoumarin (F2):
(0.15 g, 73%); m.p.: 95-96° C., Rf=0.38 (ethyl acetate:n-Hexane=1:5); IR (KBr cm−1): 2970, 2924, 2863, 2341, 1717, 1605, 1574, 1447, 1384, 1283, 1172, 1116, 1061, 919, 756, 630; 1H-NMR (400 MHz, CDCl3) δ/ppm: 1.31 (3H, t, J=7.0 Hz, OCH2CH3), 3.68 (2H, q, J=7.0 Hz, OCH2CH3), 4.46 (2H, d, J=1.6 Hz, CH2OCH2CH3), 7.28 (1H, td, J=7.6, 1.2 Hz, ArH), 7.34 (1H, d, J=8.0 Hz, ArH), 7.48-7.52 (2H, ArH), 7.81 (1H, t, J=1.6 Hz, H-4); 13C-NMR (100 MHz, CDCl3) δ/ppm: 15.2, 66.9, 66.9, 116.5, 119.2, 124.4, 126.4, 127.7, 131.0, 138.1, 153.1, 160.5; MS (EI) m/z: 175 ([M-(C2H5)]+, 53%), 160 (100%), 132 (51%), 131 (42%); Anal. calcd for C12H12O3 (204.22): C, 70.57; H, 5.92. found: C, 70.60; H, 5.95.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | KBr | [K+].[Br-]
reactant | n-Hexane | CCCCCC | C6H14
product | 3-Ethoxymethylcoumarin | C(C)OCC=1C(OC2=CC=CC=C2C1)=O | C12H12O3
